US04341784
Ethyl 1-ethyl-7-methoxy-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate (82 g) was added to a mixture of fuming nitric acid (200 ml) and concd. sulfuric acid (330 ml), then the mixture was heated at 80° C. for 2 hours with stirring. The mixture was poured into 500 ml of ice-water. The precipitate was collected, washed with water, and dried. Recrystallization from ethanol gave 93.5 g of ethyl 1-ethyl-1,4-dihydro-7-methoxy-6-nitro-4-oxo-1,8-naphthyridine-3-carboxylate, m.p. 223.5°-227° C.

reactant | Ethyl 1-ethyl-7-methoxy-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 82 g | C(C)N1C=C(C(C2=CC=C(N=C12)OC)=O)C(=O)OCC | C14H16N2O4
reactant | nitric acid | 200 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 330 ml | S(O)(O)(=O)=O | H2O4S
product | ethyl 1-ethyl-1,4-dihydro-7-methoxy-6-nitro-4-oxo-1,8-naphthyridine-3-carboxylate | 93.5 g | C(C)N1C=C(C(C2=CC(=C(N=C12)OC)[N+](=O)[O-])=O)C(=O)OCC | C14H15N3O6
